US07915300B2
5-Bromo-2-thiophenecarboxaldehyde (10 mmol) and piperidine (10 mmol) were mixed in THF (10 mL) and dibutyltin dichloride (0.2 mmol) was added. After stirring at RT for 5 minutes, phenylsilane (11 mmol) was added and the reaction allowed to stir at room temperature for a further 17 h. The reaction was then concentrated in vacuo and the residue purified by flash chromatography (silica gel, DCM) to give 1-(5-bromo-thiophen-2-ylmethyl)-piperidine: m/z=260, 262 in MS ES+ as a golden oil which was used directly in the subsequent step. A reaction tube containing a magnetic stirrer bar was charged with 4-carboxyphenylboronic acid (0.05 mmol), the thiophene bromide (0.05 mmol), Pd(PPh3)4 (0.025 mmol), acetonitrile (2 mL) and 1M Na2CO3 (aq) (2 mL). The reaction tube was then sealed and heated by microwave irradiation (100 W, 4 mins) to 150° C. and held at that temperature for 10 mins. After being allowed to cool to room temperature the reaction were acidified to pH 1 with 1M HCl and the resulting precipitate filtered off. This crude product was then passed through a silica plug to remove any inorganic species and concentrated to give a the title compound as a brown powder m/z=304 in MS ES+, which was characterised by hplc and MS and used in the next step without any further purification.

reactant | 5-Bromo-2-thiophenecarboxaldehyde | 10 mmol | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | piperidine | 10 mmol | N1CCCCC1 | C5H11N
reactant | dibutyltin dichloride | 0.2 mmol | C(CCC)[Sn](CCCC)(Cl)Cl
reactant | phenylsilane | 11 mmol | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(5-bromo-thiophen-2-ylmethyl)-piperidine | BrC1=CC=C(S1)CN1CCCCC1 | C10H14BrNS
